US06172064B2
To a solution of (3R,4S)-1-(2-tetrahydropyranyloxy)-3-(5-phenyl-1-pentyl)-4-methylazetidin-2-one (140 mg, 0.428 mmol) in dioxane (1.2 mL) is added 1 M aqueous sodium hydroxide (0.64 mL). The solution is stirred at 23° C. for 24 h, then extracted with hexanes (10 mL). The aqueous layer is acidified to pH=3 with saturated aqueous sodium bisulfate solution, and is extracted with two 20 mL portions of ethyl acetate. The combined organics are washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide (2R,3S)-2-(5-phenyl-1-pentyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid as an oil (105 mg, 71% yield).

reactant | (3R,4S)-1-(2-tetrahydropyranyloxy)-3-(5-phenyl-1-pentyl)-4-methylazetidin-2-one | 0.428 mmol, 140 mg | O1C(CCCC1)ON1C([C@@H]([C@@H]1C)CCCCCC1=CC=CC=C1)=O | C20H29NO3
reactant | sodium hydroxide | 1 M, 0.64 mL | [OH-].[Na+]
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
product | (2R,3S)-2-(5-phenyl-1-pentyl)-3-(2-tetrahydropyranyloxyamino)butanoic acid | 105 mg, 71% yield | C1(=CC=CC=C1)CCCCC[C@@H](C(=O)O)[C@H](C)NOC1OCCCC1 | C20H31NO4
